US07098212B2
2-(3-Amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone
To a solution of 2-(5-chloro-3-nitro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (1.25 g, 2.86 mmol) in ethanol (50 mL) was added platinum dioxide (0.92 g). The mixture was hydrogenated on a Parr shaker at 35 psi of hydrogen for 5 minutes at ambient temperature. The reaction was then purged with nitrogen and filtered through celite. The filtrate was concentrated in vacuo to give the title compound (1.08 g).

reactant | 2-(5-chloro-3-nitro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 2.86 mmol, 1.25 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)[N+](=O)[O-] | C20H22ClFN4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | platinum dioxide | 0.92 g | [Pt](=O)=O
product | 2-(3-Amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 1.08 g | NC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C20H24ClFN4O2
